US05491200
2,2'-Bis(carbomethoxy)-4,4'-dinitrobiphenyl
A mixture of methyl 2-chloro-5-nitrobenzoate (66.5 g, 0.309 mol) and sand (200 g) is added to a 500 ml, three-necked round-bottom flask equipped with an overhead stirrer, condenser and a nitrogen inlet tube. After the mixture is heated to 220° C. under nitrogen with stirring, activated copper (50.0 g) is added gradually during 1 hour. The reaction mixture is stirred at 220° C. under nitrogen for another 3 hours, and the mixture is then extracted with boiling acetone, and filtered while hot to remove copper and sand. The acetone is thereafter removed from the filtrate under reduced pressure. The residue is recrystallized from methanol two times to yield 45 percent of yellow crystals: mp 176.5°-177.0° C.

reactant | methyl 2-chloro-5-nitrobenzoate | 0.309 mol, 66.5 g | ClC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
catalyst | copper | 50.0 g | [Cu] | Cu
product | 2,2'-Bis(carbomethoxy)-4,4'-dinitrobiphenyl | 45 percent | C(=O)(OC)C1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)OC | C16H12N2O8
